### ISSUE TITLE
`exact?` doesn't close the goal

### ISSUE THREAD

**Issue by shuxuezhuyi** [leanprover-community/mathlib4#6937]
From https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/exact.3F.20doesn't.20close.20the.20goal
```lean
import Mathlib.Analysis.NormedSpace.Basic
variable (a : ℝ) (h1 : 0 ≤ a)
example : a = dist a 0 := by
  rw [dist_eq_norm]
  simp
  exact?
  -- Try this: exact Eq.symm ((fun {α} [LinearOrderedRing α] {a} => abs_eq_self.mpr) h1)
```
It doesn't close the goal, since
```lean
typeclass instance problem is stuck, it is often due to metavariables
  LinearOrderedRing ?m.551
```
What actually close the goal is:
```lean
rw_mod_cast [abs_eq_self.mpr h1]
```

**Comment by kbuzzard** [comment]
Right now on master, what's happening is that `exact?` reports
```
exact ((fun {α} [LinearOrderedAddCommGroup α] {a b} hb ↦ (abs_eq hb).mpr) h1 (Or.inl rfl)).symm
```
(which doesn't work), and what works is if you remove all the non-explicit inputs from the function, i.e.
```
  exact ((fun hb ↦ (abs_eq hb).mpr) h1 (Or.inl rfl)).symm
```

**Comment by semorrison** [comment]
Just noting that `exact?` is moving to the lean4 repository; I can't transfer issues across organisations, however.

**Comment by semorrison** [comment]
@kmill, is this something I can pin on the delaborator?

**Comment by kmill** [comment]
Yes, mostly. The problem is that the delaborator isn't showing that the implicit `fun` arguments are being passed to `abs_eq_self`. If you set `pp.analyze` to `true`, it seems to get it to pretty print enough to elaborate.

Though, you do have any idea where this weird `fun` is coming from from `exact?`? Could `exact?` do some beta reduction of the term if that `fun` can't be avoided? (Is it because SolveByElim uses `intro`? or maybe it's the implicit lambda feature?)

**Comment by kbuzzard** [comment]
Adding another example which a student found earlier this week:
```
import Mathlib.Tactic

-- works fine
example (x : ℝ) (hx : x ≠ 0) : |x| > 0 := by exact? -- Try this: exact abs_pos.mpr hx

-- suggestion doesn't work and is clearly strange
example (x : ℝ) : x ≠ 0 → |x| > 0 := by exact?
/-
Try this: exact fun a ↦
  (fun {α} [AddGroup α] [LinearOrder α]
        [CovariantClass α α (fun x x_1 ↦ x + x_1) fun x x_1 ↦ x ≤ x_1] {a} ↦
      abs_pos.mpr)
    a
-/
```

**Comment by semorrison** [comment]
If someone can make a no-imports reproduction, I will look into having `exact?` attempt some beta reduction to avoid this.
